US04259336
N-(5-Chloro-2-pyridyl)-4-hydroxy-2-methyl-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxamide-1,1-dioxide
Prepared analogous to Example 1 from methyl 4-hydroxy-2-methyl-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide and 2-amino-5-chloro-pyridine with a yield of 60% of theory.

reactant | methyl 4-hydroxy-2-methyl-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide | OC1=C(N(S(C2=C1SC1=C2C=CC=C1)(=O)=O)C)C(=O)OC | C13H11NO5S2
reactant | 2-amino-5-chloro-pyridine | NC1=NC=C(C=C1)Cl | C5H5ClN2
product | N-(5-Chloro-2-pyridyl)-4-hydroxy-2-methyl-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | yield of 60% | ClC=1C=CC(=NC1)NC(=O)C=1N(S(C2=C(C1O)SC1=C2C=CC=C1)(=O)=O)C | C17H12ClN3O4S2
